US08975415B2
The mixture of 4-bromo-1-[(3,3-dimethoxy-1-vinylcyclobutyl)methoxy]-2-iodobenzene (3.16 g, 6.98 mmol) and 1M aqueous HCl (14 mL) in THF (31 mL) was stirred for ambient temperature for 1 hour. Then the mixture was stirred for 4 hours at 50° C. The mixture was cooled to room temperature and added saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated under reduced pressure to give 3-[(4-bromo-2-iodophenoxy)methyl]-3-vinylcyclobutanone (2.91 g).

reactant | 4-bromo-1-[(3,3-dimethoxy-1-vinylcyclobutyl)methoxy]-2-iodobenzene | 6.98 mmol, 3.16 g | BrC1=CC(=C(C=C1)OCC1(CC(C1)(OC)OC)C=C)I | C15H18BrIO3
reactant | HCl | 1M, 14 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 31 mL | C1CCOC1 | C4H8O
product | 3-[(4-bromo-2-iodophenoxy)methyl]-3-vinylcyclobutanone | 2.91 g | BrC1=CC(=C(OCC2(CC(C2)=O)C=C)C=C1)I | C13H12BrIO2
